US08304434B2
Step 9: 1-benzoyl-4-(1-methyl-1-{[3-(trifluoromethyl)phenyl]sulfonyl}ethyl)piperidine
To a 10 ml vial was added 4-(1-methyl-1-{[3-(trifluoromethyl)phenyl]sulfonyl}ethyl)piperidine (33 mg, 0.098 mmol), benzoic acid (10 mg, 0.082 mmol), Bop reagent (43.5 mg, 0.098 mmol), diisopropylethyl amine (0.029 ml, 0.164 mmol) and 2 ml dimethylformamide. The resulting solution was stirred at room temperature for 10 minutes. LC-Mass showed clean desired product. The reaction mixture was diluted with 1 ml dimethyl sulfoxide, 1 ml water and 0.03 ml of trifluoroacetic acid. This mixture was loaded on a reverse phase column and purified on HPLC eluted with water/acetonitrile gradient solvent. Desired fraction was collected and lyophilized to give the title compound as a fluffy white solid.

reactant | 4-(1-methyl-1-{[3-(trifluoromethyl)phenyl]sulfonyl}ethyl)piperidine | 0.098 mmol, 33 mg | CC(C)(S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)C1CCNCC1 | C15H20F3NO2S
reactant | benzoic acid | 0.082 mmol, 10 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | Bop reagent | 0.098 mmol, 43.5 mg | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethyl amine | 0.164 mmol, 0.029 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 1-benzoyl-4-(1-methyl-1-{[3-(trifluoromethyl)phenyl]sulfonyl}ethyl)piperidine | C(C1=CC=CC=C1)(=O)N1CCC(CC1)C(C)(S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)C | C22H24F3NO3S
